US08623889B2
Step 2: (1S,2S)-2-fluoro-N-(7-(5-hydroxy-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
To a solution of (1S,2S)—N-(7-(5-amino-4-methylpyridin-3-yl)isoquinolin-3-yl)-2-fluorocyclopropanecarboxamide (46.2 mg; 0.137 mmol) in trifluoroacetic acid (1.0 mL; 13 mmol) at 0° C. was added N-amyl nitrite (29 μL; 0.21 mmol). The reaction mixture was stirred at room temperature for 4 hours. The reaction mixture was concentrated, and then partitioned between dichloromethane and 2M aqueous sodium carbonate. The aqueous layer was neutralized to pH 7 with citric acid, and then extracted twice more with dichloromethane. The combined dichloromethane layers were dried over magnesium sulfate and evaporated in vacuo. The crude product was purified via flash chromatography on silica gel (12 g silica, solvent gradient: 0-10% methanol in dichloromethane) followed by preparatory reverse-phase HPLC to yield 8.4 mg (18%) of the title compound. LCMS (ESI): RT (min)=3.583, M+H=338.1, method=E; 1H NMR (400 MHz, DMSO) δ 10.96 (s, 1H), 9.94 (broad s, 1H), 9.19 (s, 1H), 8.52 (s, 1H), 8.15 (s, 1H), 8.04 (s, 1H), 8.00 (s, 1H), 7.96 (d, J=8.6 Hz, 1H), 7.71 (d, J=8.5 Hz, 1H), 4.95 m, 1H), 2.27 (m, 1H), 2.12 (s, 3H), 1.70 (m, 1H), 1.20 (m, 1H).

reactant | (1S,2S)—N-(7-(5-amino-4-methylpyridin-3-yl)isoquinolin-3-yl)-2-fluorocyclopropanecarboxamide | 0.137 mmol, 46.2 mg | NC=1C(=C(C=NC1)C1=CC=C2C=C(N=CC2=C1)NC(=O)[C@H]1[C@H](C1)F)C | C19H17FN4O
reactant | trifluoroacetic acid | 13 mmol, 1.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | N-amyl nitrite | 0.21 mmol, 29 μL | CCCCCON=O | C5H11NO2
product | (1S,2S)-2-fluoro-N-(7-(5-hydroxy-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 8.4 mg, 18% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C=NC=C(C1C)O | C19H16FN3O2
